US09290451B2
c) 6-(3-Chlorophenyl)-5-methoxy-pyridine-2-carboxylic acid
A mixture of 6-bromo-5-methoxy-pyridine-2-carboxylic acid (0.3 g, 1 mmol), 3-chlorophenylboronic acid (CAN 63503-60-6, 0.23 g, 1 mmol), tris(dibenzylidene-acetone)-dipalladium(0) (CAN 52409-22-0, 0.12 g), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (CAN 161265-03-8, 0.15 g) and potassium carbonate (0.21 g, 2 mmol) in 1,4-dioxane (10 mL) was stirred for 12 h at 110° C. under a nitrogen atmosphere. The reaction mixture was filtered, concentrated under reduced pressure and purified by column chromatography (silica gel, 10 g, eluting with 10% methanol in methylene chloride) to give the title compound (0.1 g, 29%); MS (EI): m/e=264.0 [M+H]+.

reactant | 6-bromo-5-methoxy-pyridine-2-carboxylic acid | 1 mmol, 0.3 g | BrC1=C(C=CC(=N1)C(=O)O)OC | C7H6BrNO3
reactant | 3-chlorophenylboronic acid | 1 mmol, 0.23 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.15 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | potassium carbonate | 2 mmol, 0.21 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-(3-Chlorophenyl)-5-methoxy-pyridine-2-carboxylic acid | 0.1 g, 29% | ClC=1C=C(C=CC1)C1=C(C=CC(=N1)C(=O)O)OC | C13H10ClNO3
